US07435837B2
Treatment of (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylamine (2.2 g, 9.66 mmol) with diisopropylethylamine (3.12 g, 24.15 mmol) and benzyl chloroformate (1.81 g, 10.63 mmol) generally according to the procedure described for Intermediate 12 gave 1.2 g (59%) of (±)-benzyl(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate as a colorless oil. Anal. calcd. for C20H23NO3 C, 73.82; H, 7.12; N, 4.3. Found C, 73.32; H, 7.33; N, 4.15. Chiral HPLC separation of (±)-benzyl(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate (Chiralcel OJ, ethanol) provided two fractions. Fraction 1 (Rt=9.319 min, Chiralcel OJ, ethanol); Fraction 2 (Rt=11.868 min, Chiralcel OJ, ethanol).

reactant | (±)-(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylamine | 9.66 mmol, 2.2 g | C(C)(C)C1=CC=CC=2CC(OC21)CN | C12H17NO
reactant | diisopropylethylamine | 24.15 mmol, 3.12 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | benzyl chloroformate | 10.63 mmol, 1.81 g | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
product | (±)-benzyl(7-isopropyl-2,3-dihydro-1-benzofuran-2-yl)methylcarbamate | 1.2 g, 59% | C(C1=CC=CC=C1)OC(NCC1OC2=C(C1)C=CC=C2C(C)C)=O | C20H23NO3
